US08802664B2
A screw-cap tube is charged with 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole (208 mg), palladium(II) acetate (3 mg), RuPhos® 6 (12 mg), potassium 3-trifluoroboratopropionate tert-butyl ester (118 mg), potassium carbonate (207 mg), water (2.5 mL) and toluene (2.5 mL). The tube is evacuated, filled with argon and sealed. After stirring at 120° C. overnight, the mixture is diluted with ethyl acetate and water and the aqueous phase is extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol from 100/0 to 95/5) to afford 3-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}propionic acid tert-butyl ester.

reactant | 2-[(3-bromophenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole | 208 mg | BrC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C20H21BrN2OS
reactant | RuPhos | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | potassium 3-trifluoroboratopropionate tert-butyl ester | 118 mg | [B-](CCC(=O)OC(C)(C)C)(F)(F)F.[K+]
reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.5 mL | O | H2O
product | 3-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl}propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC(=CC=C1)C(OC1CCN(CC1)C)C=1SC2=C(N1)C=CC=C2)=O | C27H34N2O3S
